US04656182
Preparation of trans-N-methyl-N-[2-(1-pyrrolidinyl) cyclohexyl]-1H-indole-3-acetamide free base
1H-Indole 3-acetic acid (1.05 g, Aldrich) and trans-N-methyl-2-(1-pyrrolidinyl)cyclohexanamine were dissolved in tetrahydrofuran (30 ml) and cyclohexyl carbodiimide (1.24 g) added. The resultant solution was stirred at room temperature overnight, during which time a white precipitate appeared. The solution was filtered and evaporated to an oil, which was chromatographed on silica. Elution with ether gave the product as a white solid (1.3 g), mp 175°-178° C.

reactant | 1H-Indole 3-acetic acid | 1.05 g | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | trans-N-methyl-2-(1-pyrrolidinyl)cyclohexanamine | CN[C@H]1[C@@H](CCCC1)N1CCCC1 | C11H22N2
reactant | cyclohexyl carbodiimide | 1.24 g | C1(CCCCC1)N=C=N | C7H12N2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | trans-N-methyl-N-[2-(1-pyrrolidinyl) cyclohexyl]-1H-indole-3-acetamide | 1.3 g | CN(C(CC1=CNC2=CC=CC=C12)=O)[C@H]1[C@@H](CCCC1)N1CCCC1 | C21H29N3O
